US08334308B2
Step 1: 2-(4-bromo-2-methylphenyl)-3-pyridin-3-ylpropanenitrile
To a solution (4-bromo-2-methylphenyl)acetonitrile (III.1; 1 eq.) in THF (0.18M) and hexamethylphosphoramide (HMPA; 3.3 eq.) at −78° C. was added lithium hexamethyldisilazide (LiHMDS; 1.9 eq.). The reaction mixture was stirred 30 min at −78° C. To the resulting solution was cannulated a suspension of 3-(bromomethyl)pyridine hydrobromide salt (0.8 eq.) in THF (0.1M). The final mixture was allowed to warm slowly to 0° C., stirred 2 h, warm to room temperature then stirred for an extra 2 h. The resulting mixture was poured in saturated aqueous NaHCO3 and finally extracted with EtOAc. The organic extract was washed with water, brine, dried over Na2SO4 filtered and concentrated. Purification by column chromatography on silica gel (Combi-Flash by ISCO), eluting with Hex/EtOAc (0 to 60% in 30 min) afforded the desired compound as a colorless oil.

reactant | (4-bromo-2-methylphenyl)acetonitrile | 1 eq. | BrC1=CC(=C(C=C1)CC#N)C | C9H8BrN
reactant | hexamethylphosphoramide | 3.3 eq. | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | lithium hexamethyldisilazide | 1.9 eq. | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 3-(bromomethyl)pyridine hydrobromide salt | 0.8 eq. | Br.BrCC=1C=NC=CC1
solvent | THF | 0.18M | C1CCOC1 | C4H8O
solvent | THF | 0.1M | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-(4-bromo-2-methylphenyl)-3-pyridin-3-ylpropanenitrile | BrC1=CC(=C(C=C1)C(C#N)CC=1C=NC=CC1)C | C15H13BrN2
